### PR TITLE
Namespace List lemmas under Veir.List (followup to #626)

### PR DESCRIPTION
**Pull request by spitters**
## Summary

Followup to #626. After #626 renamed `List.getElem?_idxOf` to
`List.getElem_idxOf` (resolving the Mathlib `Data.List.Basic` collision),
downstream projects that import both Veir and Batteries/Mathlib still
hit collisions on related lemmas:

* **Batteries** (`Batteries.Data.List.Lemmas`) declares its own
  `List.getElem_idxOf` — same name as the post-#626 Veir version.
* **Mathlib** (`Mathlib.Data.List.Nodup`) declares `List.idxOf_getElem`
  — same name as Veir's adjacent lemma above the renamed one.

Both still hit:
```
import Mathlib.Data.List.Basic failed,
environment already contains 'List.getElem_idxOf' from Veir.ForLean
```
(or the analogous error from Batteries).

## Fix

Move both `List.idxOf_getElem` and `List.getElem_idxOf` into the
`Veir.List` namespace.  Update internal references in the Array
wrappers (`Veir/ForLean.lean`) and in `Veir/IR/WellFormed.lean`
(3 `grind [List.idxOf_getElem]` usages).

No semantic change.  Two single-block edits:

* `Veir/ForLean.lean` (~14 lines around the renamed lemmas): wrap in `namespace Veir.List ... end Veir.List`; explicit-namespace `_root_.List` references in statements.
* `Veir/IR/WellFormed.lean` (3 lines): `[List.idxOf_getElem]` → `[Veir.List.idxOf_getElem]`.

## Verification

Verified locally that a downstream consumer (CatCrypt) which imports
both Veir and Mathlib elaborates cleanly with the patch.  Without it,
the import sequence fails at the second collision after #626's first
fix resolved the original `getElem?` form.

🤖 Generated with [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

**Review by tobiasgrosser — APPROVED** [review]
I am happy with this. Let's wait for a second 👍

**Comment by math-fehr** [comment]
Instead of putting it in the `Veir.List` namespace, would it be possible to move it to some `ForLean.List` namespace?
And then, in `WellFormed.lean`, could you `open ForLean` instead of manually adding `Veir` to the lemma names.

File: Veir/ForLean.lean [hunk 1]
```diff
@@ -113,23 +113,27 @@ theorem Array.reverse_singleton (a : α) :
...
+    _root_.List.idxOf l[i] l = i := by
   induction l generalizing i <;> grind
 
-theorem List.getElem_idxOf [DecidableEq α] {l : List α} (h : l.idxOf x < l.length) :
+theorem getElem_idxOf [DecidableEq α] {l : _root_.List α} (h : l.idxOf x < l.length) :
     l[l.idxOf x] = x := by
   induction l <;> grind
 
+end ForLean.List
+
```
Comment (math-fehr) [inline Veir/ForLean.lean:127]: Same here, can you add `open ForLean` here so it doesn't modify anything under it?

File: Veir/ForLean.lean [hunk 2]
```diff
@@ -113,23 +113,27 @@ theorem Array.reverse_singleton (a : α) :
...
-theorem List.idxOf_getElem [DecidableEq α] {l : List α} (H : Nodup l) (i : Nat) (h : i < l.length) :
-    idxOf l[i] l = i := by
+namespace ForLean.List
+
+theorem idxOf_getElem [DecidableEq α] {l : _root_.List α} (H : l.Nodup) (i : Nat) (h : i < l.length) :
+    _root_.List.idxOf l[i] l = i := by
   induction l generalizing i <;> grind
 
-theorem List.getElem_idxOf [DecidableEq α] {l : List α} (h : l.idxOf x < l.length) :
+theorem getElem_idxOf [DecidableEq α] {l : _root_.List α} (h : l.idxOf x < l.length) :
```
Comment (math-fehr) [inline Veir/ForLean.lean]: can you remove `_root_` in this code? This is unneeded

**Comment by spitters** [comment]
Done. Sorry!

**Review by math-fehr — APPROVED** [review]
Thanks!
